US09382237B2
5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile (100 mg) was then suspended in EtOH (4 mL) and 4-[{5-(Trifluoromethyl)pyridin-2-yl}oxy]benzaldehyde (230 mg, 1 eq.) and piperidine (1 drop) were added. Stirred at reflux until intermediate was absent (HPLC). After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 3-((3-chlorophenyl)amino)-5-((4-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzylidene)amino)-1H-pyrazole-4-carbonitrile as a yellow powder. Powder was washed with EtOH. Product was allowed to dry under vacuum for 1 hr (217 mg, 52% yield).

reactant | 5-amino-3-((3-chlorophenyl)amino)-1H-pyrazole-4-carbonitrile | 100 mg | NC1=C(C(=NN1)NC1=CC(=CC=C1)Cl)C#N | C10H8ClN5
reactant | 4-[{5-(Trifluoromethyl)pyridin-2-yl}oxy]benzaldehyde | 230 mg, 1 eq. | FC(C=1C=CC(=NC1)OC1=CC=C(C=O)C=C1)(F)F | C13H8F3NO2
solvent | EtOH | 4 mL | CCO | C2H6O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
product | 3-((3-chlorophenyl)amino)-5-((4-((5-(trifluoromethyl)pyridin-2-yl)oxy)benzylidene)amino)-1H-pyrazole-4-carbonitrile | 52% yield | ClC=1C=C(C=CC1)NC1=NNC(=C1C#N)N=CC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C23H14ClF3N6O
